US07618975B2
N2,N4-Bis(4-chloro-phenyl)-N2,N4-dimethyl-quinazoline-2,4-diamine
The title compound was prepared from 2,4-dichloroquinazoline (60 mg, 0.3.02 mmol) and 4-chloro-N-methylaniline (72 mg, 0.513 mmol) by a procedure similar to example 1b and was isolated as white powder (50 mg, 83%). 1H NMR (CDCl3): 8.93 (d, J=8.4 Hz, 1H), 7.56 (t, J=7.5 Hz, 1H), 7.47-7.44 (m, 4H), 7.32-7.27 (m, 2H), 7.18-7.14 (m, 2H), 6.95 (t, J=7.5 Hz, 1H), 6.67 (d, J=8.4 Hz, 1H), 4.02 (s, 3H), 3.25 (s, 3H).

reactant | 2,4-dichloroquinazoline | 60 mg | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | 4-chloro-N-methylaniline | 0.513 mmol, 72 mg | ClC1=CC=C(NC)C=C1 | C7H8ClN
product | N2,N4-Bis(4-chloro-phenyl)-N2,N4-dimethyl-quinazoline-2,4-diamine | ClC1=CC=C(C=C1)N(C1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)Cl)C | C22H18Cl2N4
